US04906634
4-[[2-(Diethylamino)ethyl]thio]benzenamine
To a solution of 7.4 g (29 mmol) of N,N-diethyl-2-[(4-nitrophenyl)thio]ethanamine in 150 mL of ethanol add 32.8 g (140 mmol) of tin(II) chloride dihydrate. Reflux the reaction mixture for about 5 h. After this time, cool the reaction mixture to room temperature and carefully add the mixture to a solution of 75 g (0.54 mol) of potassium carbonate in 500 mL of water. Extract the mixture with 3×500 mL of ethyl acetate. Combine the organic extracts and wash with 2×350 mL of saturated aqueous sodium chloride solution. Dry the organic extracts over anhydrous sodium sulfate. Remov the drying agent by filtration and evaporate the solvent in vacuo to obtain the title compound.

reactant | N,N-diethyl-2-[(4-nitrophenyl)thio]ethanamine | 29 mmol, 7.4 g | C(C)N(CCSC1=CC=C(C=C1)[N+](=O)[O-])CC | C12H18N2O2S
reactant | tin(II) chloride dihydrate | 140 mmol, 32.8 g | O.O.[Sn](Cl)Cl
reactant | potassium carbonate | 0.54 mol, 75 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | water | 500 mL | O | H2O
product | 4-[[2-(Diethylamino)ethyl]thio]benzenamine | C(C)N(CCSC1=CC=C(C=C1)N)CC | C12H20N2S
